US07598243B2
A solution of tert-butyl 4-[(2,2-dimethyl-4,6-dioxo-1,3-dioxan-5-ylidene)(hydroxy)methyl]piperidine-1-carboxylate (8.99 g, 25.3 mmol) and t-butyl N-(t-butoxycarbonyloxy)carbamate (5.90 g, 25.3 mmol) in toluene (200 mL) was stirred at 65° C. for 14 h, then at rt for 36 h. The reaction mixture was concentrated and the residue was purified by flash chromatography (silica, 25% ethyl acetate/hexanes) to afford tert-butyl 4-(3-{(tert-butoxycarbonyl)[(tert-butoxycarbonyl)oxy]amino}-3-oxopropanoyl)piperidine-1-carboxylate. H NMR analysis was consistent with product but complex due to carbamate rotamers.

reactant | tert-butyl 4-[(2,2-dimethyl-4,6-dioxo-1,3-dioxan-5-ylidene)(hydroxy)methyl]piperidine-1-carboxylate | 25.3 mmol, 8.99 g | CC1(OC(C(C(O1)=O)=C(C1CCN(CC1)C(=O)OC(C)(C)C)O)=O)C | C17H25NO7
reactant | t-butyl N-(t-butoxycarbonyloxy)carbamate | 25.3 mmol, 5.90 g | C(C)(C)(C)OC(=O)ONC(OC(C)(C)C)=O | C10H19NO5
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
product | tert-butyl 4-(3-{(tert-butoxycarbonyl)[(tert-butoxycarbonyl)oxy]amino}-3-oxopropanoyl)piperidine-1-carboxylate | C(C)(C)(C)OC(=O)N(C(CC(=O)C1CCN(CC1)C(=O)OC(C)(C)C)=O)OC(=O)OC(C)(C)C | C23H38N2O9
